US08293909B2
Methyl 2-(4-fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-5-(3-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)pyrazolo[1,5-a]pyridine-3-carboxylate was prepared from 3-(2-(4-fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-3-(methoxycarbonyl)pyrazolo[1,5-a]pyridin-5-yl)benzoic acid (0.05 g, 0.10 mmol) and 1-(pyridin-2-yl)cyclopropanamine dihydrochloride (0.03 g, 0.15 mmol). LCMS: retention time: 1.473 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters-Sunfire, 5 micron, C18, 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 254 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% CH3CN/90% H2O/10 mM TFA and solvent B was 10% H2O/90% CH3CN/10 mM TFA. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 644 (MH+).

reactant | 3-(2-(4-fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-3-(methoxycarbonyl)pyrazolo[1,5-a]pyridin-5-yl)benzoic acid | 0.10 mmol, 0.05 g | FC1=CC=C(C=C1)C1=NN2C(C=C(C(=C2)N(S(=O)(=O)C)CCO)C=2C=C(C(=O)O)C=CC2)=C1C(=O)OC | C25H22FN3O7S
reactant | 1-(pyridin-2-yl)cyclopropanamine dihydrochloride | 0.15 mmol, 0.03 g | Cl.Cl.N1=C(C=CC=C1)C1(CC1)N
product | Methyl 2-(4-fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-5-(3-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)pyrazolo[1,5-a]pyridine-3-carboxylate | FC1=CC=C(C=C1)C1=NN2C(C=C(C(=C2)N(S(=O)(=O)C)CCO)C2=CC(=CC=C2)C(NC2(CC2)C2=NC=CC=C2)=O)=C1C(=O)OC | C33H30FN5O6S
